US04175136
A mixture of 10 g of homoveratrylamine and 12 g of β-phenethyl bromide was stirred for 15 minutes at 125° C. in a bath and after cooling the mixture to 60° C., 30 ml of acetone were added. The mixture was iced and vacuum filtered and the recovered precipitate was dissolved in 250 ml of methanol. The solution was concentrated to 50 ml and 400 ml of ethyl acetate were added thereto. The mixture was concentrated to 200 ml, was iced and vacuum filtered to obtain 12.5 g of raw product. The latter was crystallized from isopropanol to obtain 9 g of N-phenethyl-3,4-dimethoxyphenethylamine hydrobromide in the form of colorless crystals melting at 180° C.

reactant | homoveratrylamine | 10 g | C(CC1=CC(OC)=C(OC)C=C1)N | C10H15NO2
reactant | β-phenethyl bromide | 12 g | C1=CC=C(C=C1)CCBr | C8H9Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-phenethyl-3,4-dimethoxyphenethylamine hydrobromide | 9 g | Br.C(CC1=CC=CC=C1)NCCC1=CC(=C(C=C1)OC)OC | InChI=1S/C18H23NO2.BrH/c1-20-17-9-8-16(14-18(17)21-2)11-13-19-12-10-15-6-4-3-5-7-15;/h3-9,14,19H,10-13H2,1-2H3;1H
